US07253286B2
N6-Methoxy-4-(4-amino-3-chlorophenoxy)-7-benzyloxy-6-quinolinecarboxamide
After dissolving 4-amino-3-chlorophenol (408 mg, 2.84 mmol) in dimethylsulfoxide (10 ml), sodium hydride (114 mg, 2.84 mmol) was gradually added at room temperature and the mixture was stirred for 30 minutes. N6-Methoxy-7-benzyloxy-4-chloro-6-quinolinecarboxamide (388 mg, 1.14 mmol) was added, and the mixture was heated at 100° C. for 18 hours while stirring. Upon cooling to room temperature, the reaction solution was distributed between ethyl acetate and water, and the organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate. After distilling off the solvent, it was subjected to silica gel column chromatography, the target fraction was concentrated under reduced pressure, the obtained crude product was suspended in ethyl acetate, the suspension was diluted with hexane, and the crystals were filtered out, washed with hexane and blow-dried to obtain the title compound (81.0 mg, 0.180 mmol, 16%) as light red crystals.

reactant | 4-amino-3-chlorophenol | 2.84 mmol, 408 mg | NC1=C(C=C(C=C1)O)Cl | C6H6ClNO
reactant | sodium hydride | 2.84 mmol, 114 mg | [H-].[Na+]
reactant | N6-Methoxy-7-benzyloxy-4-chloro-6-quinolinecarboxamide | 1.14 mmol, 388 mg | CONC(=O)C=1C=C2C(=CC=NC2=CC1OCC1=CC=CC=C1)Cl | C18H15ClN2O3
reactant | water | O | H2O
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | N6-Methoxy-4-(4-amino-3-chlorophenoxy)-7-benzyloxy-6-quinolinecarboxamide | 0.180 mmol, 81.0 mg, 16% | CONC(=O)C=1C=C2C(=CC=NC2=CC1OCC1=CC=CC=C1)OC1=CC(=C(C=C1)N)Cl | C24H20ClN3O4
